US08748624B2
STEP C: 3-(5-(2-(((4′-chloro-[1,1′-biphenyl]-4-yl)amino)methyl)-6-(trifluoromethyl)phenyl)picolinamido)propanoic acid
A 1M aqueous solution of NaOH (0.30 mL, 0.30 mmol) was added to a THF (0.6 mL) and MeOH (0.3 mL) solution of ethyl 3-(5-(2-(((4′-chloro-[1,1′-biphenyl]-4-yl)amino)methyl)-6-(trifluoromethyl)phenyl)picolinamido)propanoate (57.5 mg, 0.10 mmol) and the resulting homogeneous mixture was stirred at room temperature. After 45 min the resulting mixture was acidified with 1M HCl (0.31 mL, 0.31 mmol) and then extracted with DCM. The combined organics were dried (Na2SO4), concentrated and purified via column chromatography to yield the title compound.

reactant | NaOH | 0.30 mmol, 0.30 mL | [OH-].[Na+]
reactant | THF | 0.6 mL | C1CCOC1 | C4H8O
reactant | ethyl 3-(5-(2-(((4′-chloro-[1,1′-biphenyl]-4-yl)amino)methyl)-6-(trifluoromethyl)phenyl)picolinamido)propanoate | 0.10 mmol, 57.5 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NCC1=C(C(=CC=C1)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C31H27ClF3N3O3
reactant | HCl | 0.31 mmol, 1M, 0.31 mL | Cl | ClH
solvent | MeOH | 0.3 mL | CO | CH4O
product | 3-(5-(2-(((4′-chloro-[1,1′-biphenyl]-4-yl)amino)methyl)-6-(trifluoromethyl)phenyl)picolinamido)propanoic acid | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NCC1=C(C(=CC=C1)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)O | C29H23ClF3N3O3
